US06987116B2
A mixture of 4-phenoxyaniline (430 mg, 2.32 mmol), pyridine hydrochloride (244 mg, 2.11 mmol) and 2-bromo-4-chlorothieno[3,2-b]pyridine-6-carbonitrile (578 mg, 2.11 mmol) in 10 mL of 2-ethoxyethanol is heated at 125° C. for 4 hours. The mixture is poured into diethyl ether and the solids are collected by filtration. The solids are stirred with saturated aqueous sodium bicarbonate for 1 hour. The solids are collected by filtration, washed with water and diethyl ether to give 717 mg of 2-bromo-7-[(4-phenoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile as a tan solid, mp 248-250° C.; 1H NMR (DMSO-d6) δ 7.01-7.19 (m, 5H), 7.23-7.47 (m, 4H), 7.66 (s, 1H), 8.57 (s, 1H), 9.62 (s, 1H); MS 422.1, 424.1 (M+H)+.

reactant | 4-phenoxyaniline | 2.32 mmol, 430 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | pyridine hydrochloride | 2.11 mmol, 244 mg | Cl.N1=CC=CC=C1
reactant | 2-bromo-4-chlorothieno[3,2-b]pyridine-6-carbonitrile | 2.11 mmol, 578 mg | BrC1C=C2N(C=C(C=C2S1)C#N)Cl | C8H4BrClN2S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 2-bromo-7-[(4-phenoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 717 mg | BrC1=CC2=NC=C(C(=C2S1)NC1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C20H12BrN3OS
